US05756504
1-(4-(5-Benzimidazolylcarbonylamino)phenylacetyl)-4-(2-ethylphenyl)piperazine
To a stirred solution of 1-(2-ethylphenyl)piperazine (0.19 g; 1.0 mmol), 4-(5-benzimidazolylcarbonylamino)phenylacetic acid (0.329 g; 1.10 mmol), HOBT (0.14 g; 1.0 mmol), and EDC (0.230 g; 1.20 mmol) in DMF (30 mL) was added DIEA (0.23 mL; 1.3 mmol). The reaction was stirred at ambient temperature for 18 h and the solvent was evaporated under reduced pressure. The residue was partitioned between CH2Cl2 and saturated aqueous NaHCO3. The organic phase was separated and washed with saturated aqueous NaHCO3 and brine. The organic phase was dried (MgSO4), filtered, and the solvent was evaporated under reduced pressure. The residue was purified by pressurized silica gel column chromatography using 93:7:0.35 CH2Cl2 :MeOH:NH4OH as eluant. Evaporation of the product-containing fractions under reduced pressure gave the title compound as an amorphous solid.

reactant | 1-(2-ethylphenyl)piperazine | 1.0 mmol, 0.19 g | C(C)C1=C(C=CC=C1)N1CCNCC1 | C12H18N2
reactant | 4-(5-benzimidazolylcarbonylamino)phenylacetic acid | 1.10 mmol, 0.329 g | N1=CNC2=C1C=CC(=C2)C(=O)NC2=CC=C(C=C2)CC(=O)O | C16H13N3O3
reactant | HOBT | 1.0 mmol, 0.14 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 1.20 mmol, 0.230 g
reactant | DIEA | 1.3 mmol, 0.23 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 1-(4-(5-Benzimidazolylcarbonylamino)phenylacetyl)-4-(2-ethylphenyl)piperazine | N1=CNC2=C1C=CC(=C2)C(=O)NC2=CC=C(C=C2)CC(=O)N2CCN(CC2)C2=C(C=CC=C2)CC | C28H29N5O2
